US06462038B1
A suspension of (R)-[1-(2-fluoro-4-nitrophenyl)-2-pyrrolidinyl]-methanol (2.27 g, 9.4 mmol) and NaH (60% mineral oil suspension, 0.737 g, 18.9 mmol) in 35 mL THF was heated at reflux for 1 h. The reaction was quenched with phosphate buffer, and the aqueous layer was extracted with EtOAc. The solution was filtered through Celite, and the organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. Flash chromatography (3:2 EtOAc:hexanes) afforded 476 mg (22%) of (R)-2,3,3a,4-tetrahydro-7-nitro-1H-pyrrolo[2,1-c][1,4]benzoxazine, an orange solid. Data for (R)-2,3,3a,4-tetrahydro-7-nitro-1H-pyrrolo[2,1-c][1,4]benzoxazine: Rf 0.55 (3:2 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.87 (dd, 1H, J=9,2,2,4), 7.74 (d, 1H, J=2.4), 6.44 (d, 1H, J=8.8), 4.56 (dd, 1H, J=10.3, 3.4), 3.65-3.72 (m, 1H), 3.60 (broad t, 1H, J=8.6), 3.44 (t, 1H, J=10.0), 3.36 (td, 1H, J=9.8, 7.3), 2.15-2.25 (m, 2H), 2.05-2.15 (m, 1H), 1.45-1.55 (m, 1H).

reactant | (R)-[1-(2-fluoro-4-nitrophenyl)-2-pyrrolidinyl]-methanol | 9.4 mmol, 2.27 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CCC1)CO | C11H13FN2O3
reactant | NaH | 18.9 mmol, 0.737 g | [H-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (R)-2,3,3a,4-tetrahydro-7-nitro-1H-pyrrolo[2,1-c][1,4]benzoxazine | 476 mg, 22% | [N+](=O)([O-])C1=CC2=C(N3[C@@H](CO2)CCC3)C=C1 | C11H12N2O3
